US08431575B2
To a solution of cis (±)-4-azidomethyl-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (1.95 mmol, 0.5 g) was added bis(2-methoxyethyl)aminosulfur trifluoride (2.34 mmol, 0.52 g) slowly and stirred for 12. The reaction mixture was diluted with DCM (10 mL), washed with aq. NaHCO3 solution, dried (Na2SO4), filtered, and concentrated under reduced pressure. The residue was purified by flash silica gel column chromatography using ethyl acetate:hexanes (2:8) to get 4-azidomethyl-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester.

reactant | cis (±)-4-azidomethyl-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 1.95 mmol, 0.5 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)CN=[N+]=[N-])O | C11H20N4O3
reactant | bis(2-methoxyethyl)aminosulfur trifluoride | 2.34 mmol, 0.52 g | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-azidomethyl-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)CN=[N+]=[N-] | C11H18N4O2
